US05055468
9,10-Dihydro-9,10-ethanoanthracene-11-methanol
Anthracene (45.4 gm) was combined with allyl alcohol (90.8 gm) and benzene (260 ml) in a Parr bomb and heated to 210° C. for 12 hours. The benzene was removed on a rotary evaporator and the residue was recrystallized from n-heptane to provide the product as a white solid (mp=104-105° C.).

reactant | Anthracene | 45.4 gm | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | allyl alcohol | 90.8 gm | C(C=C)O | C3H6O
solvent | benzene | 260 ml | C1=CC=CC=C1 | C6H6
product | 9,10-Dihydro-9,10-ethanoanthracene-11-methanol | C1=CC=CC=2C3C4=CC=CC=C4C(C12)CC3CO | C17H16O
